US08859574B2
A mixture of 4-bromo-2-fluoro-5-methylaniline (2.0 g, 9.8 mmol), bis(pinacolato)diboron (2.74 g, 10.8 mmol), tricyclohexylphosphine (274.8 mg, 0.98 mmol), Pd2(dba)3 (448.9 mg, 0.49 mmol), and potassium acetate (1.92 g, 19.6 mmol) in 60 mL of 1,4-dioxane was degassed and purged with nitrogen. The reaction mixture was heated at 80° C. overnight and then cooled to room temperature. The mixture was partitioned between EtOAc and water and the collected organic extracts were dried (Na2SO4), concentrated in vacuo, and purified by silica chromatography (EtOAc/Hexanes: 20/80) to afford 2-fluoro-5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline; ESMS m/z 252.2 (M+H+).

reactant | 4-bromo-2-fluoro-5-methylaniline | 9.8 mmol, 2.0 g | BrC1=CC(=C(N)C=C1C)F | C7H7BrFN
reactant | bis(pinacolato)diboron | 10.8 mmol, 2.74 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | tricyclohexylphosphine | 0.98 mmol, 274.8 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium acetate | 19.6 mmol, 1.92 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 60 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.49 mmol, 448.9 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-fluoro-5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | FC1=C(N)C=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C | C13H19BFNO2
